US07589095B2
Tetrakis(triphenylphosphine)palladium (2.48 g, 2.1 mmol) and hexamethyl-distannane (20 g, 61.4 mmol) were successively added under a nitrogen atmosphere to a mixture of 4-chloro-2-methanesulfonyl-6-propyl-pyrimidine (12.8 g, 54.5 mmol), lithium chloride (2.8 g, 66 mmol) and 2,6-di-tert-butyl-4-methylphenol (0.18 g, 0.82 mmol) in dioxane (240 mL). The mixture was refluxed for 3 hours then cooled to room temperature, and filtered. The filtrate was concentrated under reduced pressure. The residue was chromatographed over silica gel (eluent: Cyclohexane/Ethyl acetate 8/2) to afford 2-methanesulfonyl-4-propyl-6-trimethylstannanyl-pyrimidine (9.5 g, 48%) as a yellow oil.

reactant | hexamethyl-distannane | 61.4 mmol, 20 g | C[Sn]([Sn](C)(C)C)(C)C
reactant | 4-chloro-2-methanesulfonyl-6-propyl-pyrimidine | 54.5 mmol, 12.8 g | ClC1=NC(=NC(=C1)CCC)S(=O)(=O)C | C8H11ClN2O2S
reactant | lithium chloride | 66 mmol, 2.8 g | [Cl-].[Li+]
solvent | dioxane | 240 mL | O1CCOCC1 | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium | 2.1 mmol, 2.48 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | 2,6-di-tert-butyl-4-methylphenol | 0.82 mmol, 0.18 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
product | 2-methanesulfonyl-4-propyl-6-trimethylstannanyl-pyrimidine | 9.5 g, 48% | CS(=O)(=O)C1=NC(=CC(=N1)CCC)[Sn](C)(C)C | InChI=1S/C8H11N2O2S.3CH3.Sn/c1-3-4-7-5-6-9-8(10-7)13(2,11)12;;;;/h5H,3-4H2,1-2H3;3*1H3;
